US06063810
0.7 g (4.3 mmol) of 3-methyl-6-hydroxybenzofuran and 35 ml of tetrahydrofuran are introduced into a 50 ml three-necked flask. Cooling is carried out to -78° C. with a bath of solid carbon dioxide in acetone. 2.6 ml of lithium diisopropylamide (2.0M in tetrahydrofuran/heptane) are added dropwise and stirring is continued for 20 min. 0.535 ml of methyl iodide is then added dropwise. The reaction mixture is allowed to return to room temperature. 50 ml of water are added and then extraction is carried out with ethyl acetate (3×50 ml). The organic phases are combined, dried over magnesium sulphate and concentrated. The residue is subjected a second time to the same treatment. 0.691 g of 2,3-dimethyl-6-methoxybenzofuran is obtained in the form of an oil.

reactant | 3-methyl-6-hydroxybenzofuran | 4.3 mmol, 0.7 g | CC1=COC2=C1C=CC(=C2)O | C9H8O2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | lithium diisopropylamide | 2.0M, 2.6 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 0.535 ml | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 2,3-dimethyl-6-methoxybenzofuran | 0.691 g | CC=1OC2=C(C1C)C=CC(=C2)OC | C11H12O2
